US05578622
2.18 Grams of 3-methyl-4-cyano-5-methylsulfonylisothiazole was dissolved in 20 ml of dimethoxyethane, and a solution of 1.2 g of potassium hydrosulfide (KSH) in 5 ml of water was added at room temperature with stirring. After stirring for 10 minutes, 1.3 g of 2-propynyloxymethyl chloride was added, and the reaction solution was stirred for 3 hours. Water was added to the reaction solution, which was then extracted with ethyl acetate. The extract was washed with water, dried and concentrated to obtain 2.1 g of an oily 3-methoxy-4-cyano-5-(2-propynyloxymethylthio)isothiazole. This product was dissolved in 20 ml of DMF and ice-cooled to 5° to 10° C. To this solution was added a solution of 5.1 g of iodine and 3.2 g of potassium iodide in 5 ml of water and 10 ml of DMF, and then 6.6 g of a 10% KOH was added dropwise. After addition, the reaction solution was stirred for 2 hours until the temperature reached room temperature. Water was added to the reaction solution, which was then extracted with ethyl acetate. The extract was washed with water, dried and concentrated under reduced pressure to obtain an oily product. This product was recrystallized from ether to obtain 2.7 g of white crystals having a melting point of 124° to 125° C. (yield 76%).

reactant | 3-methyl-4-cyano-5-methylsulfonylisothiazole | CC1=NSC(=C1C#N)S(=O)(=O)C | C6H6N2O2S2
reactant | potassium hydrosulfide | 1.2 g | [SH-].[K+]
reactant | 2-propynyloxymethyl chloride | 1.3 g | C(C#C)OCCl | C4H5ClO
reactant | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
solvent | water | 5 ml | O | H2O
product | 3-methoxy-4-cyano-5-(2-propynyloxymethylthio)isothiazole | 2.1 g | COC1=NSC(=C1C#N)SCOCC#C | C9H8N2O2S2
